Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
STEMI
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___ & ___
 
History of Present Illness:
___ no previous cardiac hx, HLD/HTN who presents with 24hr hx of 
burning substernal chest pain described as heart burn. Does 
report increased exertional chest "tightness" over past several 
months while bike riding. He stated that the chest tightness 
remits when he takes a rest and is a function of the terrain 
(tightness occurs when he is going uphill).  No SOB associated 
with chest tightness. He states that the episode of CP that 
brought him to the ED was a ___ on the pain scale and he 
localizes it to the epigastrum.  He stated that TUMS normally 
alleviates the pain, but this time it did not.  Pt further 
reported one episode of emesis. Pt denies current SOB, 
palpitations, diaphoresis, lightheadedness, dizziness, PND, 
swelling.  

Initial ED vitals: 97.5 HR 91 BP 168/96 RR 16 99% RA. EKG in 
triage showed ST elevation and Q waves in V1-V3 and labs notable 
for troponin 0.31, CK-MB>100, WBC 15.2. He received aspirin 325, 
Plavix 300, lopressor 5, Nitro in ED and was taken emergently to 
the cath lab. In cath lab, saw 100% chronic proximal LAD 
occlusion but were unable to cross the occlusion through either 
radial or femoral approach. The patient had AIVR during 
procedure with BP drop but hemodynamics then recovered. EF was 
not assessed. Pt now has R radial TR band and R femoral 
angioseal. Bivalrudin was used for anticoagulation during the 
procedure. 

On transfer to the CCU, the patient reported ___ substernal 
nonradiating chest pain and was hemodynamically stable. VS on 
arrival: 99.4, 80 SR, 134/80, 14, 95% 2L. The patient is now 
transferred to the CCU for medical management through 
___ period. Current access is one peripheral IV.
 
REVIEW OF SYSTEMS  
On review of systems, denies any prior history of stroke, TIA, 
deep venous thrombosis, pulmonary embolism, bleeding at the time 
of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. Denies recent fevers, chills or rigors. 
S/he denies exertional buttock or calf pain. All of the other 
review of systems were negative.  
 
Cardiac review of systems is positive per HPI.  

 
Past Medical History:
1. CARDIAC RISK FACTORS:Dyslipidemia, Hypertension  
2. CARDIAC HISTORY:  none
3. OTHER PAST MEDICAL HISTORY:
Hypothyroidism diagnosed ___ months ago  
 
Social History:
___
Family History:
MGF: stroke age ___ (lived to ___, leg cancer
Mom: shooting pains in head, HTN
 
Physical Exam:
ADMISSION PHYSICAL EXAM
General: NAD, alert
HEENT: Normocephalic, atraumatic, EOMI, PERRL, mucous membranes 
moist
Neck: supple, no JVD appreciated
CV: RRR, S1 and S2 appreciated, no murmurs rubs or gallops. 
Pulmonary: Lungs clear to auscultation b/L, no rales, rhonci or 
wheezes
Abdomen: +BS, soft, nondistended, nontender
GU: deferred
Extremities: warm and well perfused, 2+ radial, ___, DP b/l
Neuro: alert, oriented, fluent speech, mentating well, no gross 
motor or sensory deficits

DISCHARGE PHYSICAL EXAM
General: NAD, alert
HEENT: Normocephalic, atraumatic, EOMI, PERRL, mucous membranes 
moist
Neck: supple, no JVD appreciated
CV: RRR, S1 and S2 appreciated, no murmurs rubs or gallops. 
Pulmonary: CTAB
Abdomen: +BS, soft, nondistended, nontender
GU: deferred
Extremities: warm and well perfused, 2+ radial, ___, DP b/l
SKIN: B/l femoral cath sites C/D/I, without bruits or hematoma
Neuro: alert, oriented, fluent speech, mentating well, no gross 
motor or sensory deficits

 
Pertinent Results:
ADMISSION LABS
___ 06:40PM BLOOD WBC-15.2* RBC-5.28 Hgb-16.3 Hct-46.1 
MCV-87 MCH-30.8 MCHC-35.3* RDW-13.7 Plt ___
___ 06:40PM BLOOD Neuts-87.2* Lymphs-8.1* Monos-3.9 Eos-0.1 
Baso-0.8
___ 06:40PM BLOOD Plt ___
___ 03:44AM BLOOD ___ PTT-33.6 ___
___ 06:40PM BLOOD Glucose-128* UreaN-11 Creat-0.8 Na-136 
K-3.9 Cl-99 HCO3-21* AnGap-20
___ 06:40PM BLOOD CK(CPK)-1092*
___ 06:40PM BLOOD CK-MB-106* MB Indx-9.7* cTropnT-0.31*
___ 12:21AM BLOOD Calcium-9.2 Phos-3.1 Mg-1.9

OTHER LABS
___ 03:44AM BLOOD Triglyc-78 HDL-55 CHOL/HD-2.4 LDLcalc-61
___ 10:12AM BLOOD TSH-1.5
___ 10:12AM BLOOD T4-5.8 T3-96

CARDIAC CATH: ___  
Coronary angiography:  right dominant

LMCA:  Normal

LAD:  100% proximal LAD with right to left and faint left to 
left
collaterals.  There appeared to be a long filling defect within
the mid LAD.  The LAD had a very large ramus branch with minimal
lumen irregularities.  The ramus branch supplied the
anterolateral wall and was free of significant disease. 

LCX:  The LCx was a large vessel vessel that gave rise to a
cascade of OMBs and posterolateral branches. These vessel were
free of significant disease. 

RCA:  The RCA was a dominant vessel. The PDA and PL branches 
were
widely patent with minimal lumen irregularities.  The RCA
provided collaterals to the mid LAD

ECHO ___
IMPRESSION: Suboptimal study. Regional left ventricular systolic 
dysfunction with LVEF estimated at ___ with hypokinesis of 
the anterior and anteroseptal wall consistent with anterior 
myocardial infarction in the LAD territory. Normal valvular 
function.  

CXR ___
No pneumonia.  Widening of the right paratracheal stripe may 
indicate mediastinal adenopathy.  CT scan may be performed for 
further 
confirmation and diagnosis if clincially relevant. 

EKG ___ 1819: SR 92, STE V1-V3
EKG ___: SR with paroxysmal idioventricular rhythm 

DISCHARGE LABS
___ 04:16AM BLOOD WBC-9.5 RBC-4.06* Hgb-12.5* Hct-35.1* 
MCV-87 MCH-30.9 MCHC-35.7* RDW-12.5 Plt ___
___ 04:16AM BLOOD Plt ___
___ 04:16AM BLOOD Glucose-100 UreaN-14 Creat-0.8 Na-138 
K-3.8 Cl-104 HCO3-24 AnGap-14
___ 04:25AM BLOOD cTropnT-2.98*
___ 04:16AM BLOOD Calcium-8.5 Phos-3.3 Mg-2.___ h/o HTN, HLD here with delayed presentation of anterior 
STEMI.

ACTIVE ISSUES
# STEMI: 
Patient found to have STEMI with 100% LAD occlusion.  First cath 
on ___ was unsuccessful for PCI placement.  However, repeat 
cath on ___ was successful with LAD stent placement.  He was 
started on ASA 325mg PO daily which he will take for one month- 
then plan for change to 81mg PO daily.  He was also started on 
Plavix 75mg PO daily which he will need to take for at least one 
year.  Home Atorvastatin 20mg PO daily was increased to 80mg PO 
daily and Metoprolol XL 25mg PO daily and Lisinopril 2.5mg PO 
daily was started.  On the day of discharge, the patient was 
tolerating his new meds well and was chest pain free.

# AIVR: 
Patient found to have several episodes of few beats of wide 
complex tachycardia on floor after his first cath, though he 
remained asymptomatic and hemodynamically stable. This was 
likely secondary to ischemia and electrolyte abnormalities.  
After ___ cath with stent placement on ___ and electrolyte 
replection, patient did not have any further episodes of ectopy. 
 Throughout hospialization, he was monitored on telemetry.

# Leukocytosis: 
WBC 15.2 with left shift on admission but downtrended throughout 
admission. Patient remained afebrile, without focal symptoms. 
CXR from ___ negative for pneumonia. Leukocytosis likely ___ 
STEMI and not infection.  On the day of discharge, the patient 
remained afebrile without any localizing symptoms and WBC had 
trended down to wnl.
  
CHRONIC ISSUES
# Hypothyroidism: 
Patient has history of recently diagnosed hypothyroidism.  
Thyroid function tests checked during hospitalization and found 
to be wnl ruling out hyperthyroidism as cause for cardiac 
presentation.  Home dose levothyroxine was continued. 

TRANSITIONAL ISSUES
- Patient was started on Metoprolol XL 25mg PO daily, Lisinopril 
2.5mg PO daily
- ASA 325 mg QD x 3 mos, then 81 mg QD; Plavix 75 mg daily 
minimum ___ year
- Patient's home dose atorvastatin increased to 80mg PO daily
- please consider starting spironolactone
- patient also given a prescription for Nitro SL in case of 
chest pain in the future
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cialis (tadalafil) 20 mg Oral Daily 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Atorvastatin 20 mg PO DAILY 
4. Zolpidem Tartrate 5 mg PO HS 

 
Discharge Medications:
1. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Zolpidem Tartrate 5 mg PO HS 
4. Aspirin EC 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet,delayed release (___) by mouth 
daily Disp #*30 Tablet Refills:*0
5. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
6. Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
7. Cialis (tadalafil) 20 mg Oral Daily 
8. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet extended release 24 
hr(s) by mouth daily Disp #*30 Tablet Refills:*0
9. Nitroglycerin SL 0.3 mg SL PRN chest pain 
Do not take within 48 hours of taking Cialis 
RX *nitroglycerin 0.4 mg 1 tab sublingually every 5 minutes Disp 
#*10 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
ST elevation MI

Secondary diagnosis:
Idoventricular rhythm s/p cath
Leukocytosis
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for a heart attack, which was 
caused by a blockage in one of the arteries in your heart. You 
underwent two cardiac catheterization procedures. The first one 
diagnosed the blockage in your artery. The second one was needed 
to place a stent in that artery, to fix the blockage. A heart 
ultrasound showed that your heart function after the heart 
attack is ___ normal heart function is above 55%. 

You did well during your hospitalization without complications 
from the procedures. It is important that you continue to take 
the new medications we started in the hospital, which help 
protect your heart. You will need to follow up with cardiology 
in the future.

It was a pleasure to take care of you during your hospital stay,
Your ___ team.
 
Followup Instructions:
___